US07816522B2
(36a) (3,4-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile
After adding 0.887 g of 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine, 0.831 g of 3,4-dimethoxybenzaldehyde, 1 g of MS3A and 1 ml of trimethylsilyl cyanide to a solution of 0.31 g of Yb(OTf)3 in 20 ml of dichloromethane under a nitrogen atmosphere, the mixture was stirred at room temperature for 22 hours. After then adding 200 ml of ethyl acetate to the reaction mixture, it was filtered through celite and the celite was washed with 200 ml of ethyl acetate. The organic layers were combined and washed with water and saturated brine, and then dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (1.75 g) as a light yellow solid.

reactant | 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine | 0.887 g | CC1=NC(=NO1)C1=CC=C(C=C1)N | C9H9N3O
reactant | 3,4-dimethoxybenzaldehyde | 0.831 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | trimethylsilyl cyanide | 1 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | Yb(OTf)3 | 0.31 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (3,4-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | 1.75 g | COC=1C=C(C=CC1OC)C(C#N)NC1=CC=C(C=C1)C1=NOC(=N1)C | C19H18N4O3
